US06908913B2
(1S,5R,6S)-6-((1R)-1-Hydroxyethyl)-1-methyl-2-[5-methylthio-7-[1-(3-sulfamoylaminopropyl)pyridinium-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate (intramolecular salt) (Compound No. 132)
The title compound (41 mg) was prepared in the same manner as in steps a) and b) of Example 4, except that 222 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[5-methylthio-7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate and 166 mg of 3-(4-nitrobenzyloxycarbonylaminosulfonyl)aminopropanol were used as the starting compounds.

reactant | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[5-methylthio-7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 222 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3SC)C(=O)C=3C=NC=CC3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C29H25N5O7S2
reactant | 3-(4-nitrobenzyloxycarbonylaminosulfonyl)aminopropanol | 166 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NS(=O)(=O)NCCCO)C=C1 | C11H15N3O7S
product | (1S,5R,6S)-6-((1R)-1-Hydroxyethyl)-1-methyl-2-[5-methylthio-7-[1-(3-sulfamoylaminopropyl)pyridinium-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 41 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3SC)C(=O)C=3C=[N+](C=CC3)CCCNS(N)(=O)=O)C(=O)[O-])C1=O | C25H28N6O7S3
